Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Transfer from OSH after admission for hypoglycemia, anemia - 
found to have bilateral pleural effusions, and klebsiella ESBL 
bacteriuria.  

 
Major Surgical or Invasive Procedure:
paracentesis

 
History of Present Illness:
 Mr. ___ is a ___ year-old male with history of ESLD ___ HCV 
complicated by ascites and esophageal varices (Grade II seen in 
___, HCC s/p TACE in ___ and cyberknife in ___, 
transferred from outside hospital at patient request. Patient 
was admitted to ___ on ___ with hypoglycemia to 
28. He was found unresponsive and EMS was called. Patient was 
taken to ED and received an amp of D50 and his sugar improved to 
156. This was in the setting of an increased dose of lantsus and 
running out of strips for his ___. His lantus was held and 
he was kept on an insulin sliding scale with resolution of the 
hypoglycemia.  
.  
Other issues that came up during hospitalization are as follows: 
 
1. Pleural effusions - found incidentally. Bilateral pleural 
effusion diagnosed on CXR. Patient was asymptomatic. Patient did 
not have oxygen requirement.  
.  
2. Klebsiella ESBL Bacteriuria: No dysuria. UA showed leukocyte 
esterate, nitrite negative, 11 - 25 WBC, and 4 - 12 RBC with 
bacteria present. Patient was put on contact precautions and 
antibiotics were held. Patient is currently not symptomatic.  
.  
3. Anemia: Initial hgb was 7.9. Patient had an upper endoscopy 
showing duodenitis, nonbleeding esophageal ulcer, and esophageal 
varices. He was continued on PPI BID and got two units of pRBCs. 
 
.  
On the floor, patient is comfortable without complaints. His 
peripheral edema is slightly improved from when he was admitted 
to OSH. He denies chest pain, shortness of breath, dysuria, 
fevers, chills.  
.  
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, shortness of 
breath, chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
MEDICAL & SURGICAL HISTORY:  
-HCV cirrhosis c/b Esophageal varices and Ascites  
-multifocal HCC status post chemoembolization and CyberKnife  
-DM, insulin dependent  
-Hx Shingles  
-Echo ___: Severe pulmonary hypertension with hypertrophied 
and dilated right ventricle. Peserved biventricular systolic 
function. Mild mitral regurgitation.  

 
Social History:
___
Family History:
FAMILY HISTORY: Mother died of bladder cancer  

 
Physical Exam:
Admission PE: 
VS:97.8, 107/52, 59, 22, 93% on RA  
GENERAL: Jaundice elderly male, in no acute distress  
HEENT: NC/AT, PERRLA, EOMI, sclerae icteric, MMM, OP clear.  
NECK: Supple, no thyromegaly, no LAD.  
HEART: RRR, no MRG, nl S1-S2.  
LUNGS: Dullness at bases b/l, few bibasilar crackles  
ABDOMEN: Distended, soft, non-tender, bowel sounds present  
EXTREMITIES: 3+ pitting edema of lower extremtiy b/l to knees  
SKIN: Jaundiced  
NEURO: Awake, A&Ox3, CNs II-XII grossly intact  
.
Discharge PE:
VS: Tm 97.0 Tc 95.9 101/56 (76-101/32-56) 64 (56-70) 20 97 on RA 
FSG 163 (163-193)
24 h 350+ out/420+250 in
Gen: frustrated appearing elderly gentleman, NAD, laying in bed 
comfortably 
HEENT: moist mucous membranes
neck: supple
CV: RRR, S1, S2 no murmurs/rubs/gallops
lungs: decreased breath sounds at bases b/l
abdomen: nontender, distended and still a little firm, +BS
ext: 3+ ___ pitting edema, anasarca ___ up thighs b/l
Neuro: AAO x3, alert and appropriate 

 
Pertinent Results:
Admission labs:

___ 01:46AM BLOOD WBC-6.4 RBC-2.90*# Hgb-10.4* Hct-32.0*# 
MCV-110* MCH-35.8* MCHC-32.4 RDW-19.2* Plt Ct-82*#
___ 06:14AM BLOOD WBC-7.1 RBC-2.81* Hgb-10.4* Hct-30.6* 
MCV-109* MCH-36.9* MCHC-33.9 RDW-19.7* Plt Ct-68*
___ 04:35AM BLOOD WBC-5.0 RBC-2.66* Hgb-9.6* Hct-29.8* 
MCV-112* MCH-36.2* MCHC-32.3 RDW-19.2* Plt Ct-65*
___ 01:46AM BLOOD ___ PTT-45.1* ___
___ 06:14AM BLOOD ___ PTT-44.9* ___
___ 04:35AM BLOOD ___
___ 01:46AM BLOOD Glucose-205* UreaN-24* Creat-1.1 Na-132* 
K-5.5* Cl-95* HCO3-35* AnGap-8
___ 06:14AM BLOOD Glucose-167* UreaN-24* Creat-1.0 Na-128* 
K-4.5 Cl-95* HCO3-31 AnGap-7*
___ 07:05PM BLOOD Glucose-192* UreaN-22* Creat-1.0 Na-131* 
K-4.4 Cl-93* HCO3-33* AnGap-9
___ 04:35AM BLOOD Glucose-213* UreaN-21* Creat-1.0 Na-132* 
K-4.1 Cl-93* HCO3-33* AnGap-10
___ 02:40PM BLOOD Glucose-232* UreaN-22* Creat-1.1 Na-131* 
K-4.6 Cl-92* HCO3-36* AnGap-8
___ 01:46AM BLOOD ALT-31 AST-68* AlkPhos-171* TotBili-3.0*
___ 06:14AM BLOOD ALT-30 AST-70* AlkPhos-177* TotBili-3.1*
___ 04:35AM BLOOD ALT-28 AST-63* AlkPhos-166* TotBili-3.8*
___ 05:20AM BLOOD ALT-27 AST-59* AlkPhos-164* TotBili-4.2*
___ 05:30AM BLOOD ALT-26 AST-52* AlkPhos-162* TotBili-4.1*
___ 01:46AM BLOOD Albumin-1.7* Calcium-9.2 Phos-2.1* Mg-1.9
___ 06:14AM BLOOD Calcium-9.1 Phos-2.1* Mg-1.9
___ 04:35AM BLOOD Albumin-2.6* Calcium-9.5 Phos-2.6* Mg-1.9
.
Discharge labs:

___ 07:10AM BLOOD WBC-6.3 RBC-2.39* Hgb-8.8* Hct-26.9* 
MCV-113* MCH-36.7* MCHC-32.6 RDW-18.1* Plt Ct-54*
___ 05:18AM BLOOD WBC-6.4 RBC-2.30* Hgb-8.4* Hct-25.9* 
MCV-113* MCH-36.6* MCHC-32.5 RDW-18.0* Plt Ct-61*
___ 05:35AM BLOOD WBC-5.8 RBC-2.16* Hgb-7.9* Hct-24.5* 
MCV-114* MCH-36.4* MCHC-32.0 RDW-18.2* Plt Ct-59*
___ 07:10AM BLOOD ___
___ 05:18AM BLOOD ___
___ 05:35AM BLOOD ___
___ 07:10AM BLOOD Glucose-246* UreaN-34* Creat-1.4* Na-128* 
K-4.0 Cl-89* HCO3-35* AnGap-8
___ 05:18AM BLOOD Glucose-172* UreaN-44* Creat-1.4* Na-132* 
K-4.9 Cl-92* HCO3-37* AnGap-8
___ 05:35AM BLOOD Glucose-146* UreaN-47* Creat-1.4* Na-130* 
K-4.5 Cl-92* HCO3-35* AnGap-8
___ 05:30AM BLOOD ALT-26 AST-52* AlkPhos-162* TotBili-4.1*
___ 07:10AM BLOOD ALT-25 AST-49* AlkPhos-170* TotBili-4.4*
___ 05:18AM BLOOD ALT-24 AST-53* AlkPhos-132* TotBili-5.3*
___ 05:35AM BLOOD ALT-26 AST-61* AlkPhos-114 TotBili-4.7*
___ 07:10AM BLOOD Albumin-2.0* Calcium-9.1 Phos-2.9 Mg-1.9
___ 05:18AM BLOOD Calcium-9.7 Phos-3.2 Mg-2.0
___ 05:35AM BLOOD Albumin-1.8* Calcium-10.1 Phos-3.6 Mg-2.0
 
Brief Hospital Course:
Mr. ___ a ___ M with history of ESLD ___ Hep C cirrhosis 
c/b ascites, esophageal varices (Grade 2) s/p UGIB in ___ 
s/p banding, ___ s/p TACE in ___, ___ transferred from 
OSH for hypoglycemia, was initially being aggressively diuresed, 
which has slowed down now secondary to his low blood pressures 
and electrolyte abnormalities.
.
# ESLD ___ HCV Cirrhosis: The patient has a history of ESLD 
complicated by ascites, SBP, varices s/p UGIB in ___.  His 
LFTs are currently consistent with recent baseline. Patient now 
with bilateral pleural effusions suggesting worsening of liver 
failure.  The patient was initially started on IV lasix to 
enhance his diueresis and the patient responded with good urine 
output.  However, because of electrolyte abnormalities and the 
patient's baseline low blood pressures (in the low ___ Lasix 
was held.  The patient's spironolactone was also reduced to 50 
mg BID, as well.  An attempt was made for paracentesis, however, 
enough fluid for only a diagnositic para was obtained.  The 
patient was negative for SBP on tap. He was continued on his 
Cipro prophylaxis treatment while in patient.  He was also 
continued on omeprazole, and ursodiol.  The patient also had 
episodes of lethargy during this admission, which is most likely 
due to hepatic encephalopathy.  Because of this, we started him 
on a regimen of lactulose/rifaxamin with some improvement of his 
mental status.  The patient was also continued on his nadolol 20 
mg; however, it was held frequently given his low blood 
pressures.  Attempts should be made for him to continue the 
nadolol given his history of varices, however, should be held if 
his systolic blood pressure are below 90.
.
# hypotension:  The patient has baseline low blood pressures; 
during this admission his systolic pressures have been stably in 
the mid80s-high ___.  He has been entirely asymptomatic and 
comfortable with these pressures.  The patient's Lasix is being 
held upon discharge, but he will be continued on his 
Spironolactone 50 mg BID.  The patient will also be discharged 
on his nadolol; however, holding parameters will be including 
given his hypotension. 
.
# ___: The patient is s/p cyberknife and TACE treatment and has 
a fairly poor prognosis and is a candidate for hospice care at 
this point.  The patient, however, is not ready for hospice 
care.  He is scheduled for outpatient oncology and liver follow 
up.
.  
# goals of care:  The patient is reluctant to transition to 
hospice care.  He has clear understanding of his prognosis, but 
does not think that he is at the point for hospice yet.  He is 
mentally intact, able to make decisions on his own.  Does not 
demonstrate any confusion, but has been noted to be slightly 
more lethargic.  He demonstrated episodes of somnolence during 
this admission, likely hepatic encephalopathy from his ESLD.  We 
attempted multiple discussions about goals of care with the 
patient but he is not very open to discussing it, often 
deferring to his primary hepatologist or his daughter.  A goals 
of care discussion was initiated with his daughter, who is the 
health care proxy because of this, as well as because he was 
starting to develop the tendency to wax and wane with his mental 
status.  After a long discussion, decision was made that patient 
will be DNR/DNI with no escalation of medical care.  The patient 
seems a lot more accepting of the notion of hospice now as 
compared to when he was first admitted, but a goals of care 
discussion needs to be readdressed in the near future.  He has 
good insight into his illness, but it not quite ready to accept 
the terminal stage of his disease.  Currently plans are to go 
for rehabilitation with plans for transitioning to hospice care 
in the future.
.
# ESBL bacteruria: The patient has history of ESBL bacteruria 
(___), and is currently without any symptoms.  The patient 
urine culture from this admission grew out Klebsiella that was 
sensitive to Bactrim.  Because the patient was asymptomatic, he 
was not treated as it is most likely a colonizer.
.  
# Anemia: The patient's hematocrit was 32 on admission and is 
24.5 on discharge, likely slow GI bleed either from his varices 
or from his liver lesions.  At OSH, the patient had an endoscopy 
that showed duodenitis, nonbleeding esophageal ulcer, and 
esophageal varices.  He was transfused 2U PRBC at the OSH before 
transfer to ___. The patient never had an acute crit drop 
while at ___ and he was never transfused.  Because of his 
history of upper GI bleeding and esophageal varices, a crit goal 
of 25 is ideal.  Please continue to follow his crit as an 
outpatient.  If his hematocrit drops below ___, would 
seriously consider having another goals of conversation with the 
patient and his family regarding if he would like to transition 
to hospice care, rather than reflexively readmitting to the 
hospital.
.  
# Hyperkalemia: The patient was initially hyperkalemic on 
admission, likey due to his spironolactone.  During the 
hospitalization, his K was trended, and eventually normalized.
.  
# Hyponatremia: The patient was hyponatremic during this 
admission, which sodium going as low as 127, likely due to his 
diuretic therapy.  The patient was fluid restricted and his 
lasix was held, to which his hyponatremia slowly improved.  At 
discharge, the patient's sodium was 130.
.  
# DM: The patient was found to be hypoglycemic at OSH because he 
took his lantus dose without eating dinner. The patient was 
restarted on Lantus 10 u as inpatient, as well as sliding scale. 
 At discharge his normal home dose of lantus was restarted (20 u 
qhs).
..
Transitional issues:
.
# goals of care: The patient needs to have his goals of care 
readdressed.  During this admission, the patient was reluctant 
to turn to hospice care.  He has good insight into his condition 
and his poor prognosis, but is not willing to take the step 
towards hospice.  Multiple discussions were already undertaken 
with patient and two daughters, but this issue needs to be 
readdressed as outpatient.  The patient was made DNR/DNI, as per 
HCP.
.
# hematocrit: The patient's hct was trending down during this 
admission, likely from slow GI bleed from varices or portal 
gastropathy, or from bleeding hepatocellular carcinoma tumors.  
Please continue to follow his hematocrit.  If his hematocrit 
drops below ___, would seriously consider having another goals 
of conversation with the patient and his family regarding if he 
would like to transition to hospice care, rather than 
reflexively readmitting to the hospital.
.
# hypotension: The patient's blood pressures were running low 
this admission (in the mid___-high ___ likely due to both his 
cirrhosis and diuretic therapy.  We held the patient's lasix at 
discharge and reduced his spironlactone dose to 50 mg BID.
.
# electroytes: please continue to follow sodium and potassium; 
if sodium levels trend down, consider fluid restriction.
 
Medications on Admission:
BENZONATATE - 100 mg Capsule - 1 Capsule(s) by mouth three times 
 
a day as needed for prn  
Ciprofloxacin 250 mg daily  
FUROSEMIDE 60 mg in AM, 40 mg in evening  
Lantus - patient is unsure of dose, possibly 20 units at night  
Humalog - patient unsure of dose  
Lorazepam 0.5 mg PRN nausea, anxiety, insomnia  
NADOLOL 20 mg daily  
OMEPRAZOLE - (Prescribed by Other Provider) - Dosage uncertain  
SPIRONOLACTONE [ALDACTONE] 25 mg in AM, 50 mg ___  
URSODIOL 250 mg three times a day  
VITAMIN E - 400 unit daily  

 
Discharge Medications:
1. ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours).  
2. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
3. benzonatate 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
4. nadolol 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
please hold for SBP <90, HR <55.  
5. ursodiol 250 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
6. vitamin E 400 unit Tablet Sig: One (1) Tablet PO once a day.  

7. Lantus 100 unit/mL Solution Sig: Twenty (20)  Subcutaneous at 
bedtime.  
8. Humalog 100 unit/mL Solution Sig: as directed  Subcutaneous 
three times a day: please take according to insulin sliding 
scale.  
9. spironolactone 50 mg Tablet Sig: One (1) Tablet PO twice a 
day: please hold for SBP < 95.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
primary diagnosis:
hepatocellular carcinoma
Hepatitis C

 
Discharge Condition:
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Level of Consciousness: Alert and interactive (but can have 
episodes of lethargy)
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you while you were hospitalized 
at ___.  You were admitted to the hospital because you were 
having worsening lower extremity edema and also had low blood 
sugars at an outside hospital.  By the time you got to this 
hospital, your blood sugars normalized and we restarted you on 
Lantus and your insulin sliding scale.

While you were here, we also gave you some medications through 
your veins to get extra water off of you.  However, because your 
blood pressures were very low, we had to hold some of your 
diuretic medication.  Your blood pressures were running on the 
low side while in the hospital, because of your liver disease, 
as well as the medications we were using to get extra fluid out 
of your belly and legs.  We tried to use a needle to drain the 
extra fluid out of your belly, but we did not get a lot off.
.
While you were in the hospital we also had conversations about 
your goals of care with you and your daughters.  You are very 
sick and we think your healthcare should shift more towards 
making sure that you are comfortable.  We think it is very 
important that you address these issues with Dr. ___ your 
oncology doctors as ___ outpatient.

We made the following changes to your medications:
STOP Lasix 60 mg in the morning, 40 mg in the evening
 
Followup Instructions:
___